Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Mesalamine / Sulfa (Sulfonamide Antibiotics) / Penicillins
 
Attending: ___.
 
Chief Complaint:
abdominal pain, bloody diarrhea
 
Major Surgical or Invasive Procedure:
flex sig ___

 
History of Present Illness:
___ with PMH of ulcerative colitis first diagnosed over ___ years 
ago who is now presenting with frequent diarrhea, abdominal 
pain, and bloody diarrhea. She states first noted symptoms five 
weeks ago with abdominal pain, loose and frequent stools. 
Thought she was having a flare so she went for acupuncture. Her 
symptoms did not improve. She called her GI who started her on 
steroid suppository twice a day and did not get any relief. 
Called GI here who prescribed her budesonide over the phone 
which she has taken for roughly five days. Her symptoms 
continued to worsen so she presented to the ED. She notes 
roughly a five pound weight loss in this time frame. Watery 
diarrhea with small blood with >25BMs daily. Feels dehydrated, 
but has been able to continue with PO intake. She has felt 
"feverish" but does not have a thermometer to measure 
temperature and denies belly pain currently.

She has been hospitalized for ulcerative colitis only once, 
nearly ___ years ago. She is allergic to sulfa and can not 
tolerate mesalamine. Her last stabilizing medication with ___ 
which she stopped nearly ___ years ago due to an eye infection. 
Since then she believes she has had two flares which she gets 
acupuncture to treat. She has used systemic steroids in the past 
but is reluctant to go back on them because she has had 
Cushingoid effect, as well as weight gain and feeling "hyped 
up." She had been using cortisone enemas intermittently to treat 
mild flares. She has no surgeries. Her last colonoscopy was 
___ which showed ulceration and scarring in the whole colon 
compatible with mildly active ulcerative colitis. She has never 
been on biologics. 

In the ED, initial vital signs were: 98.9 94 118/72 18 100% RA
- Exam was notable for: soft, nontender abdomen
- Labs were notable for: WBC 13.5, H/H 14.7/44.4, Plts 538, 
normal chemistry/LFTs, lactate 1.3
- Imaging: None
- The patient was given: 125mg IV methylpred around 6 ___
- Consults: GI recommended admission for IV steroids and plan 
for flex sig in the AM
-Vitals prior to transfer were: 99.4 87 123/72 16 98% RA

Upon arrival to the floor, the patient was comfortable. This 
morning she reports she feels much improved from yesterday and 
is worried about the high dose of IV steroids that she got 
overnight. She continues to have loose stools which she 
describes as "red dye." Abdominal pain is better. 

REVIEW OF SYSTEMS: Per HPI. Denies headache, visual changes, 
pharyngitis, rhinorrhea, nasal congestion, cough, fevers, 
chills, sweats, weight loss, dyspnea, chest pain, abdominal 
pain, nausea, vomiting, diarrhea, constipation, hematochezia, 
dysuria, rash, paresthesias, and weakness.

 
Past Medical History:
-Ulcerative colitis
-HTN
-Basal cell cancer
 
Social History:
___
Family History:
No IBD
 
Physical Exam:
ON ADMISSION: 
================
VITALS: 98.4 134/69 87 16 98%RA  
 Wegiht: 53.1kg  
 GENERAL: Pleasant, well-appearing, in no apparent distress.  
 HEENT - normocephalic, atraumatic, no conjunctival pallor or 
scleral icterus, PERRLA, EOMI, OP clear.  
 NECK: Supple, no LAD, no thyromegaly, JVP flat.  
 CARDIAC: RRR, normal S1/S2, no murmurs rubs or gallops.  
 PULMONARY: Clear to auscultation bilaterally, without wheezes 
or rhonchi.  
 ABDOMEN: Normal bowel sounds, soft, non-tender, non-distended, 
no organomegaly.  
 EXTREMITIES: Warm, well-perfused, no cyanosis, clubbing or 
edema.  
 SKIN: Without rash.  
 NEUROLOGIC: A&Ox3, CN II-XII grossly normal, normal sensation, 
with strength ___ throughout.  

ON DISCHARGE: 
===============
VITALS: 98.3 F, BP 120/60s, HR ___, RR 20, 100% RA
GENERAL: Pleasant, well-appearing, in no apparent distress with 
flushed cheeks. 
HEENT - normocephalic, atraumatic, no conjunctival pallor or 
scleral icterus, PERRLA, EOMI, OP clear.  
NECK: Supple, no LAD, no thyromegaly, JVP flat.
CARDIAC: RRR, normal S1/S2, no murmurs rubs or gallops.  
PULMONARY: Clear to auscultation bilaterally, without wheezes or 
rhonchi. 
ABDOMEN: Normal bowel sounds, soft, non-tender, mildly 
distended, no organomegaly.  
EXTREMITIES: Warm, well-perfused, no cyanosis, clubbing or 
edema.
SKIN: Without rash.  
NEUROLOGIC: A&Ox3, CN II-XII grossly normal, normal sensation, 
with strength ___ throughout. 

 
Pertinent Results:
ON ADMISSION: 
==============
___ 03:00PM BLOOD WBC-13.5*# RBC-4.82# Hgb-14.7 Hct-44.4 
MCV-92 MCH-30.5 MCHC-33.1 RDW-11.9 RDWSD-39.8 Plt ___
___ 03:00PM BLOOD Neuts-58.4 ___ Monos-9.3 
Eos-10.8* Baso-0.8 Im ___ AbsNeut-7.88* AbsLymp-2.75 
AbsMono-1.26* AbsEos-1.46* AbsBaso-0.11*
___ 03:00PM BLOOD Plt ___
___ 03:00PM BLOOD Glucose-95 UreaN-8 Creat-0.7 Na-136 K-4.3 
Cl-96 HCO3-26 AnGap-18
___ 03:00PM BLOOD Albumin-4.1
___ 07:23AM BLOOD Calcium-9.1 Phos-4.8* Mg-1.9
___ 03:00PM BLOOD CRP-49.8*

INTERVAL LABS: 
================
___ 03:06PM BLOOD Lactate-1.3
___ 06:40AM BLOOD WBC-19.9* RBC-4.73 Hgb-14.4 Hct-43.8 
MCV-93 MCH-30.4 MCHC-32.9 RDW-12.1 RDWSD-41.0 Plt ___
___ 08:15AM BLOOD WBC-17.8*# RBC-4.95 Hgb-15.0 Hct-46.3* 
MCV-94 MCH-30.3 MCHC-32.4 RDW-12.1 RDWSD-41.3 Plt ___
___ 09:46AM BLOOD WBC-11.7* RBC-4.38 Hgb-13.3 Hct-40.7 
MCV-93 MCH-30.4 MCHC-32.7 RDW-11.9 RDWSD-40.2 Plt ___
___ 05:35AM BLOOD WBC-11.1* RBC-4.31 Hgb-13.1 Hct-40.2 
MCV-93 MCH-30.4 MCHC-32.6 RDW-11.9 RDWSD-41.1 Plt ___
___ 07:25AM BLOOD WBC-9.6 RBC-4.15 Hgb-12.4 Hct-38.1 MCV-92 
MCH-29.9 MCHC-32.5 RDW-11.9 RDWSD-40.0 Plt ___
___ 07:23AM BLOOD CRP-28.3*
___ 05:35AM BLOOD CRP-19.9*
___ 09:46AM BLOOD CRP-11.5*

MICRO: 
=======
 
 
___ 3:00 pm BLOOD CULTURE

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___:    NO GROWTH. 

___ 6:45 pm STOOL     CONSISTENCY: NOT APPLICABLE
      Source: Stool.  OAP TEST ADDED PER ADD ON REQ ON ___ 
AT ___. 

                            **FINAL REPORT ___

   C. difficile DNA amplification assay (Final ___: 
      Negative for toxigenic C. difficile by the Illumigene DNA
      amplification assay. 
           (Reference Range-Negative). 

   FECAL CULTURE (Final ___:    NO SALMONELLA OR SHIGELLA 
FOUND. 

   CAMPYLOBACTER CULTURE (Final ___:    NO CAMPYLOBACTER 
FOUND. 

   FECAL CULTURE - R/O VIBRIO (Final ___:    NO VIBRIO 
FOUND. 

   FECAL CULTURE - R/O YERSINIA (Final ___:    NO YERSINIA 
FOUND. 

   FECAL CULTURE - R/O E.COLI 0157:H7 (Final ___: 
      NO E.COLI 0157:H7 FOUND. 

   OVA + PARASITES (Final ___: 
      NO OVA AND PARASITES SEEN. 
      This test does not reliably detect Cryptosporidium, 
Cyclospora or
      Microsporidium. While most cases of Giardia are detected 
by routine
      O+P, the Giardia antigen test may enhance detection when 
organisms
      are rare. 
      . 
      MANY POLYMORPHONUCLEAR LEUKOCYTES. 
      ___ CRYSTALS PRESENT. 

FLEX SIG REPORT AND BIOPSIES: 
==============================
Erythema, friability and ulceration in the rectum and sigmoid 
colon compatible with active colitis (biopsy)
Otherwise normal sigmoidoscopy to sigmoid colon 

1. Sigmoid colon (1A):
- Chronic mildly active colitis.
2. Rectum (2A):
- Chronic severely active colitis with ulceration.
Note: No granulomas or dysplasia identified.

DISCHARGE LABS: 
================
___ 07:42AM BLOOD CRP-4.4
___ 07:42AM BLOOD WBC-24.7* RBC-4.81 Hgb-14.6 Hct-44.2 
MCV-92 MCH-30.4 MCHC-33.0 RDW-12.2 RDWSD-40.7 Plt ___
 
Brief Hospital Course:
___ with PMH of ulcerative colitis presenting with progressively 
worsening bloody diarrhea, rectal pain concerning for ulcerative 
colitis flare.
 
#Ulcerative colitis: Patient was thought to have moderate-severe 
UC flare. There was no clear precipitant. She was given a dose 
of 125 mg IV methylprednisolone in the ED and continued on 20 mg 
IV methylpred on the medical floor. Stool studies were sent 
which returned negative. Flex sig performed on ___ showed 
active inflammation and pathology returned positive for 
inflammatory colitis without granulomas or dysplasia. She 
received her first dose of Remicade on ___ and continued to get 
IV steroids until ___. She had a quant gold and hepatitis 
serologies that were negative. She was discharged home on 40 mg 
prednisone daily for 2 weeks, with the understanding to call Dr. 
___ in 1 week to f/u on sx. 

# Leukocytosis: patient noted to have leukocytosis that 
increased despite same doses of IV steroids. While this could 
have been reactive, she was instructed to collect a stool sample 
at home and bring it to ___ for C. diff study. Results 
will be faxed to PCP and GI. 

# HTN: continued home lisinopril. 
 
***Transitional issues***: 
- hepatitis serologies negative, did not show positive HBsAb so 
should get HBV vaccine series in the outpatient setting. 
Quantiferon gold was indeterminate in the setting of 
steroids/active flare, but CXR was negative. 
- C. diff study: patient's WBC on discharge was 24.7. She was 
sent home with a lab slip for C. diff and knows to give a 
sample. Results will be faxed to Dr. ___ and her 
PCP. 
- therapy: received first dose of Remicade on ___ and will 
discuss further doses with GI. Discharged with 2 weeks of 
steroids (end ___, will call Dr. ___ in 1 week to 
f/u on sx and at that point may stop or may continue taking 
steroids for full 2-week course. 
- code status: FULL CODE 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lisinopril 10 mg PO DAILY 
2. Uceris (budesonide) 9 mg oral DAILY 

 
Discharge Medications:
1. PredniSONE 40 mg PO DAILY Duration: 2 Weeks 
Please call Dr. ___ by ___ to discuss your symptoms and 
whether to continue this medication 
RX *prednisone 20 mg 2 tablet(s) by mouth daily Disp #*28 Tablet 
Refills:*0
2. Lisinopril 10 mg PO DAILY 
3. Outpatient Lab Work
Sample: stool
ICD-10: C. ___ (A04.7)
Please evaluate for C. diff 
Fax results to: ___, ___ and ___, 
___

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis: 
Ulcerative colitis 

Secondary diagnosis: 
Hypertension 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___, 

___ were admitted to the hospital because of your ulcerative 
colitis symptoms. ___ were seen by our GI doctors, who 
recommended starting systemic steroids and Remicade. ___ 
received a course of IV steroids and will be given a 
prescription for oral steroids. Please call Dr. ___ to 
give him an update on your symptoms within a week (by ___ and 
discuss whether to continue taking the steroids for a full 
2-week course. 

It was a pleasure taking care of ___ and we wish ___ the best! 

Sincerely,
Your ___ team
 
Followup Instructions:
___